US09102684B2
3-Bromo-2-methoxy-phenylamine
A mixture of 1-Bromo-2-methoxy-3-nitro-benzene (17.8 g, 0.0768 mol), SnCl2 (69.27 g, 0.3069 mol) and 4N HCl (80 mL) in THF (200 mL) is stirred at 80° C. for 16 h. After reaction, evaporated out THF and added NaHCO3 solution, filtered and the filtrate is extracted with ethyl acetate (3×800 mL). The combined organic phase is ished with water and brine, dried over Na2SO4, concentrated in vacuo to give the desired product. Yield: 14.8 g (96%).

reactant | 1-Bromo-2-methoxy-3-nitro-benzene | 0.0768 mol, 17.8 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | SnCl2 | 0.3069 mol, 69.27 g | Cl[Sn]Cl
reactant | HCl | 4N, 80 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-Bromo-2-methoxy-phenylamine | BrC=1C(=C(C=CC1)N)OC | C7H8BrNO
